US07749618B2
With 9,9-dimethylfluorene-2,7-diboronic acid and 2,7-diiodo-9,9-dimethyl fluorene, which are synthesized according to synthesis example 1, a Suzuki reaction is carried out. Under a nitrogen atmosphere, tetrakis(triphenylphosphine)palladium(0) (1.0 mmol) is dissolved in THF (50 ml), followed by adding thereto 2,7-diiodo-9,9-dimethyl fluorene (50 mmol), a solution of 2M Na2CO3 (50 ml) and 9,9-dimethylfluorene-2,7-diboronic acid (25 mmol)/THF (100 ml) in this order. Thereafter, after refluxing for 7 hr, a reaction is brought to an end. The solution is cooled to room temperature, followed by substituting with toluene and adding substantially 30 ml of 1N HCl, further followed by washing a toluene phase with water until neutrality is obtained. After drying with sodium sulfate, followed by filtering and distilling the solvent away, and thereby a crude product is obtained. After washing with substantially 100 ml of methanol, a colorless crystal is obtained. Furthermore, by passing through a short column from hexane/ethyl acetate to remove original components, finally followed by recrystallizing, and thereby fluorene trimer (20 mmol) is obtained.

reactant | 9,9-dimethylfluorene-2,7-diboronic acid | CC1(C2=CC(=CC=C2C=2C=CC(=CC12)B(O)O)B(O)O)C | C15H16B2O4
reactant | 2,7-diiodo-9,9-dimethyl fluorene | IC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(C)C | C15H12I2
reactant | 2,7-diiodo-9,9-dimethyl fluorene | 50 mmol | IC1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(C)C | C15H12I2
reactant | Na2CO3 | 2M, 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 9,9-dimethylfluorene-2,7-diboronic acid | 25 mmol | CC1(C2=CC(=CC=C2C=2C=CC(=CC12)B(O)O)B(O)O)C | C15H16B2O4
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.0 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
